US09315507B2
A suspension of 2-(4-(adamantan-1-yl)phenoxy)-1-(4-methylpiperazin-1-yl)ethanone (0.4 g, 1.08 mmol), prepared from example 3, and 1.0 M HCl solution in diethyl ether (0.047 g, 1.30 mmol) in diethyl ether (4 mL) was stirred at room temperature overnight. The reaction mixture was filtered and dried in vacuum to afford a 4-(2-(4-(adamantan-1-yl)phenoxy)acetyl)-1-methylpiperazin-1-ium chloride as a crystalline white solid (0.43 g, 97.9% yield).

reactant | 2-(4-(adamantan-1-yl)phenoxy)-1-(4-methylpiperazin-1-yl)ethanone | 1.08 mmol, 0.4 g | C12(CC3CC(CC(C1)C3)C2)C2=CC=C(OCC(=O)N3CCN(CC3)C)C=C2 | C23H32N2O2
reactant | HCl | 1.0 M | Cl | ClH
solvent | diethyl ether | 4 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 1.30 mmol, 0.047 g | C(C)OCC | C4H10O
product | 4-(2-(4-(adamantan-1-yl)phenoxy)acetyl)-1-methylpiperazin-1-ium chloride | 0.43 g, 97.9% yield | [Cl-].C12(CC3CC(CC(C1)C3)C2)C2=CC=C(OCC(=O)N3CC[NH+](CC3)C)C=C2 | InChI=1S/C23H32N2O2.ClH/c1-24-6-8-25(9-7-24)22(26)16-27-21-4-2-20(3-5-21)23-13-17-10-18(14-23)12-19(11-17)15-23;/h2-5,17-19H,6-16H2,1H3;1H
